US07754737B2
Step 1. (±)-tert-butyl 2-(methoxy(methyl)carbamoyl)morpholine-4-carboxylate
To a stirred solution of (±)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid (1.51 g, 6.53 mmol), N,O-dimethylhydroxylamine hydrochloride (0.83 g, 8.49 mmol) and i-Pr2NEt (3.1 mL, 17.6 mmol) in CH2Cl2 (30 mL) was added solid HATU (3.01 g, 7.85 mmol). The mixture was stirred at rt for 3 d, diluted with ether (175 mL), washed with 5% aq HCl (2×50 mL) and satd aq NaHCO3 (50 mL) and dried over MgSO4. Removal of the solvent left (±)-tert-butyl 2-(methoxy(methyl)carbamoyl)morpholine-4-carboxylate (1.73 g, 96%) as an oil.

reactant | (±)-4-(tert-butoxycarbonyl)morpholine-2-carboxylic acid | 6.53 mmol, 1.51 g | C(C)(C)(C)OC(=O)N1CC(OCC1)C(=O)O | C10H17NO5
reactant | N,O-dimethylhydroxylamine hydrochloride | 8.49 mmol, 0.83 g | Cl.CNOC
reactant | i-Pr2NEt | 17.6 mmol, 3.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 7.85 mmol, 3.01 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 175 mL | CCOCC | C4H10O
product | (±)-tert-butyl 2-(methoxy(methyl)carbamoyl)morpholine-4-carboxylate | CON(C(=O)C1CN(CCO1)C(=O)OC(C)(C)C)C | C12H22N2O5
